US08541457B2
Synthesis of 2-Benzoylamino-4-chlorothiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 3, making variations only as required to use benzylamine in place of α-ethylbenzylamine to react with 2-benzoylamino-4-chlorothiazole-5-carboxylic acid, the title compound was obtained as a white solid in 20% yield; m. p. 247-249° C.; 1H NMR (DMSO-d6, 300 MHz) δ 12.5 (s, 1H), 8.11-7.93 (m, 2H), 7.72 (t, J=5.7 Hz, 1H), 7.58-6.95 (m, 8H), 4.48 (d, J=5.7 Hz, 2H); 13C NMR (DMSO-d6, 75 MHz) δ 166.1, 160.0, 138.5, 134.2, 133.0, 131.4, 128.6, 128.5, 128.4, 127.5, 127.2, 119.6, 43.4; MS (ES+) m/z 372.3 (M+1).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-benzoylamino-4-chlorothiazole-5-carboxylic acid | C(C1=CC=CC=C1)(=O)NC=1SC(=C(N1)Cl)C(=O)O | C11H7ClN2O3S
product | 2-Benzoylamino-4-chlorothiazole-5-carboxylic Acid Benzylamide | 20% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC=CC=C1)=O)Cl | C18H14ClN3O2S
